### ISSUE TITLE
linarith solver for grind gives invalid assignment on failure

### ISSUE THREAD

**Issue by b-mehta** [leanprover/lean4#10500]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When the linarith solver in grind fails to prove the goal (eg in unprovable cases), the diagnostics report an assignment which is invalid.

Example:
```
variable (a₁ a₂ a₃ a₄ a₅ : Rat)
variable (α L ν : Rat)

theorem upper_bound
    (hL : L = α) (hL1 : L ≤ 1)
    (ha₁ : 0 ≤ a₁) (ha₂ : 0 ≤ a₂) (ha₃ : 0 ≤ a₃) (ha₄ : 0 ≤ a₄) (ha₅ : 0 ≤ a₅)
    (hα : α = a₁ + a₂ + a₃ + a₄ + a₅) :
    ν ≤ 9/10 := by
  grind
```
gives assignment
```
  [linarith] Linarith assignment for `Rat` ▼
    [assign] a₁ := 0 
    [assign] a₂ := 0 
    [assign] a₃ := 0 
    [assign] a₄ := 0 
    [assign] a₅ := 0 
    [assign] α := 3 
    [assign] L := 3 
    [assign] ν := 2 
    [assign] 10⁻¹ := 1/10
```
which doesn't satisfy the given condition `hα`.

### Steps to Reproduce

1. Code as above

**Expected behavior:** linarith assignment disproves the goal

**Actual behavior:** linarith assignment appears unrelated to the goal

### Versions

On live.lean-lang.org, with
Lean 4.25.0-nightly-2025-09-21
Target: x86_64-unknown-linux-gnu

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by kim-em** [comment]
This can be minimised to

```
example (a b c : Rat) (h : a = b + c) : False := by grind
```
where the reported assignment is
```
  [linarith] Linarith assignment for `Rat` ▼
    [assign] a := 2 
    [assign] b := 0 
    [assign] c := 0 
```

**Comment by kim-em** [comment]
The same thing happens with
```

open Lean.Grind
example [Field α] [LE α] [LT α] [Std.IsPreorder α] [OrderedRing α] (a b c : α) (h : a = b + c) : False := by grind
```
